US06831186B2
A solution of 4-(hydroxymethyl)-5-(1,2-dihydroxypropyl)-2,2-dimethyl-1,3-dioxolane (63 g, 0.33 mol) and sodium iodoacetate (75 g, 0.36 mol) in water was treated with solid sodium hydroxide (16 g, 0.35 mol). The reaction mixture was stirred overnight and then washed with ethyl acetate and ether. The aqueous layer was concentrated. The resulting residue was dissolved in DMF (20 mL) and treated with iodomethane (37 mL, 0.6 mol). The resulting reaction mixture was stirred overnight. The reaction mixture was diluted with two volumes of salt water and extracted with ethyl acetate (6×). The combined organic layers were dried, and concentrated.to give 20 g of 2-[[(4S,5R)-5-(1,2-dihydroxypropyl)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]ethanoic acid, methyl ester, a compound of formula (L), as a colorless viscous oil;

reactant | 4-(hydroxymethyl)-5-(1,2-dihydroxypropyl)-2,2-dimethyl-1,3-dioxolane | 0.33 mol, 63 g | OCC1OC(OC1C(C(C)O)O)(C)C | C9H18O5
reactant | sodium iodoacetate | 0.36 mol, 75 g | ICC(=O)[O-].[Na+]
reactant | sodium hydroxide | 0.35 mol, 16 g | [OH-].[Na+]
reactant | iodomethane | 0.6 mol, 37 mL | IC | CH3I
solvent | water | O | H2O
product | 2-[[(4S,5R)-5-(1,2-dihydroxypropyl)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]ethanoic acid, methyl ester | 20 g | OC(C(C)O)[C@@H]1[C@@H](OC(O1)(C)C)COCC(=O)OC | C12H22O7
